US06136823
Synthesis of 8-Chloro-6,7-difluoro-1-(4-fluoro-5-hydroxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Ethyl 8-chloro-6,7-difluoro-1-(4-fluoro-5-methoxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate (510 mg) was added to a mixed liquid (1:1, v/v; 5 ml) of 47% hydrobromic acid and acetic acid, aid the mixture was stirred and heated under reflux for 46 hours. The reaction mixture was concentrated under reduced pressure. A process of adding distilled water (5 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Distilled water (5 ml) was added to the resultant residue, and deposits were collected by filtration. The deposits were dispersed in ethanol (2 ml) and heated to reflux. The reaction mixture was allowed to cool, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (220 mg) as a pale brown powder.

reactant | Ethyl 8-chloro-6,7-difluoro-1-(4-fluoro-5-methoxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 510 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)OC)F)[N+](=O)[O-])C(=O)OCC)=O)F)F | C19H12ClF3N2O6
reactant | hydrobromic acid | 5 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Chloro-6,7-difluoro-1-(4-fluoro-5-hydroxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 220 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)O)F)[N+](=O)[O-])C(=O)O)=O)F)F | C16H6ClF3N2O6
